* File name: D:\Documents and Settings\sicard\Mes documents\software\Dsch\Dsch35\dsch35 full\examples\inverter\spiceInv.sch
* Software version: DSCH 3.5
* Created 19/06/2009 20:56:35
*
* Voltage and current sources
*
vdd 1 0 DC 1.0
VBTN1 2 0 AC 1 0 DC 0 PULSE(0 1.0 1.00N 0.1N 0.1N 1.00N 3.00N )
*
* Passive devices
*
C1 4 0 0.01pF
R1 3 4 50
*
* Active devices
*
MP1 1 2 3 1 MP W=2u L=0.2u
MN1 0 2 3 0 MN W=1.0u L=0.2u
* Standard MOS and diode library
* Author: etienne.sicard@insa-toulouse.fr
* Software : DSCH
* last revision : June 18, 2009
* Compatible: WinSpice www.winspice.com
*
* Note: Dsch will use "MN" and "MP" default calls for Mos devices
* "DIOD" for diodes and "CLAMP" for clamp diodes
* Note: other MOS models are provided for several technologies
*
*---Diodes------------
* Simple diode
.MODEL DIOD D RS=5 BV=15 N=1.0
*
* Clamp diode
.MODEL CLAMP D RS=2 BV=10 N=1.2
*
*---Capa model---------
* Add a first order temperature influence through TC1
.MODEL CMODEL CAP(TC1=-0.001)
*
*---MOS----------------
* Defaul Mos models : corresponds to 0.35µm, 3.3V
* Model 3 n-channel MOS
.MODEL  MN  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.5
+ TOX=5e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11           RD=1             RS=1
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  MP  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=100E3         VTO=-0.5
+ TOX=5E-9           XJ=0.1U            LD=0.0U            NSUB=1E+18
+ NSS=0.0            NFS=7E11           RD=1               RS=1
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
*
* Mos models in 0.25µm
* Model 3 n-channel MOS
.MODEL  MN025  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.4
+ TOX=3e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11           RD=1             RS=1
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  MP025  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=300E3         VTO=-0.4
+ TOX=3E-9           XJ=0.1U            LD=0.0U             NSUB=1E+18
+ NSS=0.0            NFS=7E11           RD=1             RS=1
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
*
* Mos models in 0.12µm
* Model 3 n-channel MOS
.MODEL  MN012  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.35
+ TOX=2e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11           RD=1             RS=1
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  MP012  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=300E3         VTO=-0.35
+ TOX=2E-9          XJ=0.1U             LD=0.0U            NSUB=1E+18
+ NSS=0.0            NFS=7E11           RD=1             RS=1
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
*
.AC DEC 10 1MEG 1G 
* Dump time and volts in "spiceInv.txt"
.control
run
set nobreak
print  V(2)  V(4)  > spiceInv.txt
plot  V(2)  V(4) 
.endc
.OPTIONS DELMIN=0 RELTOL=1E-6
.END
