* File name: D:\Documents and Settings\sicard\Mes documents\software\Dsch\Dsch35\bugs\spiceamplidc.sch
* Software version: DSCH 3.5
* Created 22/09/2009 10:57:56
*
* Voltage and current sources
*
Vin 2 0 DC 0.5 AC 0.01 0
vdd 1 0 DC 1.0
*
* Passive devices
*
Cload 3 0 0.01pF
Rload 1 3 20K
*
* Active devices
*
MN1 0 2 3 0 MN W=0.3u L=0.05u
* Standard MOS and diode library
* Author: etienne.sicard@insa-toulouse.fr
* Software : DSCH
* last revision : Sept 21, 2009
* Compatible: WinSpice www.winspice.com
*
* Note: Dsch will use "MN" and "MP" default calls for Mos devices
* "DIOD" for diodes and "CLAMP" for clamp diodes
* Note: other MOS models are provided for several technologies
*
*---Diodes------------
* Simple diode
.MODEL DIOD D RS=5 BV=15 N=1.0
*
* Clamp diode
.MODEL CLAMP D RS=2 BV=10 N=1.2
*
*---Capa model---------
* Add a first order temperature influence through TC1
.MODEL CMODEL CAP(TC1=-0.001)
*
*---MOS----------------
* Defaul Mos models : corresponds to 45nm 1V
* Generated from Microwind 45nm 
* Ref: 45nm application note www.microwind.org
*
* Mos models in 45nm
* n-MOS Model 3 :
.MODEL MN NMOS LEVEL=3 VTO=0.18 UO=160.000 TOX= 3.5E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.350 VMAX=180.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
.MODEL MP PMOS LEVEL=3 VTO=-0.15 UO=120.000 TOX= 3.5E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.350 VMAX=180.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*

* Mos models in 0.35µm
* Model 3 n-channel MOS
.MODEL  MN035  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.5
+ TOX=5e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11           RD=1             RS=1
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  MP035  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=100E3         VTO=-0.5
+ TOX=5E-9           XJ=0.1U            LD=0.0U            NSUB=1E+18
+ NSS=0.0            NFS=7E11           RD=1               RS=1
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
*
* Model 3 n-channel MOS
.MODEL  MN035  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.5
+ TOX=5e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11           RD=1             RS=1
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  MP035  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=100E3         VTO=-0.5
+ TOX=5E-9           XJ=0.1U            LD=0.0U            NSUB=1E+18
+ NSS=0.0            NFS=7E11           RD=1               RS=1
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
*
* Mos models in 0.25µm
* Model 3 n-channel MOS
.MODEL  MN025  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.4
+ TOX=3e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11           RD=1             RS=1
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  MP025  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=300E3         VTO=-0.4
+ TOX=3E-9           XJ=0.1U            LD=0.0U             NSUB=1E+18
+ NSS=0.0            NFS=7E11           RD=1             RS=1
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
*
* Mos models in 0.12µm
* Model 3 n-channel MOS
.MODEL  MN012  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.35
+ TOX=2e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11           RD=1             RS=1
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
* Model 3 p-channel MOS
.MODEL  MP012  PMOS
+ LEVEL=3            TPG=-1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.01         ETA=0.001
+ DELTA=0.0          UO=250             VMAX=300E3         VTO=-0.35
+ TOX=2E-9          XJ=0.1U             LD=0.0U            NSUB=1E+18
+ NSS=0.0            NFS=7E11           RD=1             RS=1
+ CJ=6.852E-4        MJ=0.429           PB=1.0
+ CJSW=5.217E-10     MJSW=0.351
+ CGSO=7.29E-10      CGDO=7.29E-10
*
*
* Mos models in 90nm
* n-MOS Model 3 :
.MODEL MN90N NMOS LEVEL=3 VTO=0.34 UO=350.000 TOX= 1.2E-9
+LD =0.020U THETA=0.890 GAMMA=0.500
+PHI=0.150 KAPPA=0.130 VMAX=125.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL MP90N PMOS LEVEL=3 VTO=-0.32 UO=120.000 TOX= 1.2E-9
+LD =0.020U THETA=1.800 GAMMA=0.400
+PHI=0.150 KAPPA=0.310 VMAX=90.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
*
* Mos models in 65nm
* n-MOS Model 3 :
* low leakage
.MODEL MN65N NMOS LEVEL=3 VTO=0.34 UO=300.000 TOX= 1.1E-9
+LD =0.010U THETA=0.890 GAMMA=0.500
+PHI=0.150 KAPPA=0.130 VMAX=125.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL MP65N PMOS LEVEL=3 VTO=-0.32 UO=110.000 TOX= 1.1E-9
+LD =0.020U THETA=1.800 GAMMA=0.400
+PHI=0.150 KAPPA=0.310 VMAX=90.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
*
* Mos models in 45nm
* n-MOS Model 3 :
.MODEL MN45N NMOS LEVEL=3 VTO=0.18 UO=160.000 TOX= 3.5E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.350 VMAX=180.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
.MODEL MP45N 1 PMOS LEVEL=3 VTO=-0.15 UO=120.000 TOX= 3.5E-9
+LD =0.005U THETA=0.300 GAMMA=0.400
+PHI=0.150 KAPPA=0.350 VMAX=180.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Analysis (main SPICE command): 
*
.DC Vin 0 1 0.01
* Dump time and volts in "spiceamplidc.txt"
.control
run
set nobreak
print   V(2) V(3)  > spiceamplidc.txt
plot   V(2) V(3) 
.endc
.OPTIONS DELMIN=0 RELTOL=1E-6
.END
